US06252084B1
A mixture of 100 mg (0.26 mmol) of 2-[[3-(2-amino-2-oxoethyl)-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester and 2 mL of 1N NaOH in 6 mL of MeOH was stirred at room temperature for 2 hours. Hater and ethyl acetate were added and the aqueous layer separated, made acidic to pH 3 with 1N HCl and ethyl acetate added. The ethyl acetate solution was washed with brine, dried (MgSO4), and concentrated at reduced pressure. The residue was stirred with methylene chloride and filtered to give 17 mg (56% yield) of 2-[[3-(2-amino-2-oxoethyl)-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid, mp, 207-208° C.

reactant | 2-[[3-(2-amino-2-oxoethyl)-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester | 0.26 mmol, 100 mg | COC(COC1=C2C(=CN(C2=CC=C1)CC1=CC=CC=C1)CC(=O)N)=O | C20H20N2O4
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 6 mL | CO | CH4O
product | 2-[[3-(2-amino-2-oxoethyl)-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid | 17 mg, 56% yield | NC(CC1=CN(C2=CC=CC(=C12)OCC(=O)O)CC1=CC=CC=C1)=O | C19H18N2O4
